US06858651B2
A solution of 219 mg (0.524 mmol) of trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-butyl ester and 0.48 ml of N-allyl methyl-amine in 1 ml of MeOH was stirred over night at RT, and for 2 h under reflux. After concentration of the reaction-mixture in vacuo, the crude product was purified by chromatography over silica gel with EtOAc/H2O/AcOH/Aceton (6:2:1:1) to give 165 mg (80%) of clean trans-{4-[4-(Allyl-methyl-amino)-butyl]-cyclohexyl}-methyl-carbamic acid 4-chloro-phenyl ester, MS: 393 (MH+, 1Cl).

reactant | trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-butyl ester | 0.524 mmol, 219 mg | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)CCCCOS(=O)(=O)C)C)C=C1 | C19H28ClNO5S
reactant | N-allyl methyl-amine | 0.48 ml | C(C=C)NC | C4H9N
solvent | MeOH | 1 ml | CO | CH4O
product | trans-{4-[4-(Allyl-methyl-amino)-butyl]-cyclohexyl}-methyl-carbamic acid 4-chloro-phenyl ester | 165 mg, 80% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCN(C)CC=C)=O | C22H33ClN2O2
